US05554607
1-Methyl-3-(pyridin-3-yl)-2-thioxo-imidazolidin-4-one
A mixture of sarcosine ethyl ester hydrochloride (7.68 g), pyridin-3-yl-isothiocyanate (6.8 g), triethyl amine (10.1 g) and chloroform (200 mL) was heated at reflux for 3.5 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (300 mL) and washed with water (2×200 mL). The organic phase was dried over anhydrous magnesium sulfate. The solvent was evaporated. Crystallization from ethyl acetate afforded the title compound (4.1 g) as an off-white solid, m.p. 149°-151° C. Anal. Calcd. for C9H9N3O S: C, 52.16; H, 4.38; N, 20.28. Found: C, 52.16; H, 4.05; N, 20.06. Mass spectrum (EI, M.+) m/z 207.

reactant | sarcosine ethyl ester hydrochloride | 7.68 g | Cl.C(C)OC(CNC)=O
reactant | pyridin-3-yl-isothiocyanate | 6.8 g | N1=CC(=CC=C1)N=C=S | C6H4N2S
reactant | triethyl amine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Methyl-3-(pyridin-3-yl)-2-thioxo-imidazolidin-4-one | 4.1 g | CN1C(N(C(C1)=O)C=1C=NC=CC1)=S | C9H9N3OS
